US05252732
17-Ethyl-1-hydroxy-12-[2'-(4"-(1-N-methyl-5-indolyl)oxy-3"-allyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To a solution of tri(1-methylindol-5-yl)bismuthine (53 mg) in methylene chloride (700 μl) was added peracetic acid (17 μl), and the mixture was stirred at room temperature for 15 minutes. 17-ethyl-1-hydroxy-12-[2'-(4"-hydroxy-3"-allyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,-21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (42 mg) was dissolved in methylene chloride (270 μl) and added to the reaction mixture. After 18 hours the mixture was diluted with ethyl acetate and washed with saturated sodium bicarbonate and brine then dried over magnesium sulfate. Purification of the concentrate by flash chromatography on silica gel (ethyl acetate:hexane (1:3)+1% methanol) gave the title compound (25 mg). MASS (FAB) 938 (M+Li); Partial 1H NMR δ: 7.19 (s, 1H); 7.18 (d, J=9 Hz, 1H); 6.98 (d, J=3 Hz, 1 H); 6.92 (dd, J=9,3 Hz, 1H); 6.34 (d, J=3 Hz, 1H); 5.89 (m,1H); 4.56 (brd, J=4 Hz, 1H); 3.72 (s, 3H).

reactant | tri(1-methylindol-5-yl)bismuthine | 53 mg | CN1C=CC2=CC(=CC=C12)[Bi](C=1C=C2C=CN(C2=CC1)C)C=1C=C2C=CN(C2=CC1)C
reactant | peracetic acid | 17 μl | C(C)(=O)OO | C2H4O3
reactant | 17-ethyl-1-hydroxy-12-[2'-(4"-hydroxy-3"-allyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,-21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 42 mg | C(C)C1C(CCC(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OCC=C)C)C)=O | C45H71NO11
solvent | methylene chloride | 700 μl | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 270 μl | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 17-Ethyl-1-hydroxy-12-[2'-(4"-(1-N-methyl-5-indolyl)oxy-3"-allyloxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 25 mg | C(C)C1C(CCC(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC=2C=C1C=CN(C1=CC2)C)OCC=C)C)C)=O | C54H78N2O11
